US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (2.4 g) and 2-chloromethylpyridine (2.6 g) are dissolved in acetone (50 ml). To the mixture are added potassium carbonate (2.8 g) and patassium iodide (0.1 g), and the mixture is refluxed for 4 hours. After acetone is distilled off, water is added to the residue and extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over sodium sulfate. After chloform is distilled off, the residue is purified by column chromatography (neutral alumina, made by Merck) and eluted with n-hexane to give 1-methyl-5-(2-pyridyl)methylthio-1,2,3,4-tetrazole (1.0 g) as colorless prisms (ethanol), m.p. 78°-81° C.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 2.4 g | CN1N=NN=C1S | C2H4N4S
reactant | 2-chloromethylpyridine | 2.6 g | ClCC1=NC=CC=C1 | C6H6ClN
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | 0.1 g | [I-]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-(2-pyridyl)methylthio-1,2,3,4-tetrazole | 1.0 g | CN1N=NN=C1SCC1=NC=CC=C1 | C8H9N5S
